US07521455B2
(1) Manufacture of 6-methoxy-2-methyl-4H-3,1-benzoxazin-4-one
The target compound was obtained by the method according to Example 1-(1), using 2-amino-5-methoxybenzoic acid and acetic anhydride as starting materials.

reactant | 2-amino-5-methoxybenzoic acid | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 6-methoxy-2-methyl-4H-3,1-benzoxazin-4-one | COC=1C=CC2=C(C(OC(=N2)C)=O)C1 | C10H9NO3
